US07807709B2
Cyclopropyl-(tetrahydro-pyran-4-yl)-carbamoyl chloride
The title compound is prepared analogously as described for cyclopropyl-(tetrahydro-pyran-2-ylmethyl)-carbamoyl chloride starting from commercially available cyclopropyl-(tetrahydro-pyran-4-yl)-amine. TLC, Rf (CH2Cl2/MeOH 95:5)=0.9.

reactant | cyclopropyl-(tetrahydro-pyran-2-ylmethyl)-carbamoyl chloride | C1(CC1)N(C(=O)Cl)CC1OCCCC1 | C10H16ClNO2
reactant | cyclopropyl-(tetrahydro-pyran-4-yl)-amine | C1(CC1)NC1CCOCC1 | C8H15NO
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | Cyclopropyl-(tetrahydro-pyran-4-yl)-carbamoyl chloride | C1(CC1)N(C(=O)Cl)C1CCOCC1 | C9H14ClNO2
